* C:\Users\Dmitr\OneDrive\Desktop\eib-drumcomputer\eib-drumcomputer\ltspice\Platine_1\bass_drum\bass_drum.asc
R7 N001 N006 8.2k
C5 N007 N001 68n
R8 N006 N008 10k
R9 N002 N009 47k
C6 N009 0 150n
R10 N007 N009 47k
R11 N003 N007 1000k
R12 P001 N010 100
R13 N010 0 1k
R15 Output N004 300k
V1 12V 0 12
R5 N005 BD 330
C3 N005 0 10µ V=10
D1 N005 N006 MURS120
C4 N002 N001 68n
C7 N003 N002 1µ V=25
C8 N004 N003 1µ V=25
Q1 N003 N007 P001 0 BC848BW
R14 12V N003 22k
V2 BD 0 PULSE(0 5 10m 1u 1u 1m 2m 1) AC 1
R1 BD 0 10k
R2 N008 0 10k
.model D D
.lib C:\Users\Dmitr\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Dmitr\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 250ms 1 20000
.wave bass_drum.wav 32 44100 output
.backanno
.end
